US06380238B1
N,N-Dimethylformamide dimethylacetal (16.5 mL, 125 mmol) was added in one portion to a stirred solution of 4-fluoro-3-iodo-6-methylnitrobenzene (14.1 g, 50 mmol) in N,N-dimethylformamide (50 mL) at 130° C. under Ar. The mixture was stirred at 130° C. for 10 min then another aliquot of N,N-dimethylformamide dimethylacetal (10 mL) was added in one portion. The mixture was stirred at 130° C. for a further 10 min then another aliquot of N,-dimethylformamide (6 mL) was added in one portion. The mixture was stirred at 130° C. for 10 min then poured into water (400 mL) and extracted with ethyl acetate (3×150 mL). The combined organic extracts were washed with water (200 mL) and brine (200 mL) then dried (magnesium sulfate), filtered and concentrated in vacuo to leave a solid. The solid was dissolved in acetic acid, ethanol (1:1; 240 mL) and iron powder (33.2 g, 600 mmol) was added in one portion. The mixture was placed under an atmosphere of Ar, heated to 90° C. and stirred for 15 min (CARE: VIGOROUS REACTION—COOLING MAY BE REQUIRED). After cooling to room temperature the mixture was filtered through celite and the filtrate was concentrated in vacuo to leave a crude oil. The oil was purified by column chromatography [SiO2; dichloromethane, heptane (1:4 to 2:3)] to give the product (4.8 g, 37%, 3 steps from 2-fluoro-4-methyl-5-nitroaniline) as a green oil: NMR δH (400 MHz; CDCl3) 8.18 (1H, br. s), 7.75 (1H, d, J 5 Hz), 7.32 (1H, d, J 8.5 Hz), 7.22-7.23 (1H, m), 6.50-6.52 (1H, m); GC (25 m Quartz/Bonded Phase I; Injection Temperature 250° C.; Detector Temperature 320° C.; Temperature Ramp Rate: 100 to 320° C. at 10° C./min; Carrier Gas Helium; Flow Rate 12 mL/min) Retention Time: 8.65 min.

reactant | N,N-Dimethylformamide dimethylacetal | 125 mmol, 16.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | 4-fluoro-3-iodo-6-methylnitrobenzene | 50 mmol, 14.1 g | FC1=C(C=C(C(=C1)C)[N+](=O)[O-])I | C7H5FINO2
reactant | N,N-dimethylformamide dimethylacetal | 10 mL | COC(N(C)C)OC | C5H13NO2
reactant | water | 400 mL | O | H2O
reactant | ethanol | 240 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | 600 mmol, 33.2 g | [Fe] | Fe
product | 2-fluoro-4-methyl-5-nitroaniline | FC1=C(N)C=C(C(=C1)C)[N+](=O)[O-] | C7H7FN2O2
